US09388189B2
(S)-2-(1-((5-((3-Methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (60 mg, 0.22 mmol) was treated with 4-chloro-5-((3-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine (109 mg, 0.26 mmol), N,N-diisopropylethylamine (195 μl, 1.12 mmol), cesium fluoride (41 mg, 0.27 mmol) and tert-butanol as a solvent according to the method described in Example 17. The crude was purified using SP1® Purification (0% to 50%, hexane-ethyl acetate) to give 51 mg (35% yield) of the title compound as a white solid. Purity 100%.

reactant | (S)-2-(1-Aminoethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.22 mmol, 60 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C15H16N4O
reactant | 4-chloro-5-((3-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.26 mmol, 109 mg | ClC=1C2=C(N=CN1)N(C=C2SC2=CC(=CC=C2)OC)COCC[Si](C)(C)C | C19H24ClN3O2SSi
reactant | N,N-diisopropylethylamine | 1.12 mmol, 195 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cesium fluoride | 0.27 mmol, 41 mg | [F-].[Cs+]
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | (S)-2-(1-((5-((3-Methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 51 mg, 35% yield | COC=1C=C(C=CC1)SC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H39N7O3SSi
